US09447106B2
Compound 39: 6-(4-Phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carboxamide
A mixture of 1′-benzyl-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carboxamide (50 mg, 0.10 mmol), 10% w/w Pd(OH)2/C (5 mg) in MeOH (10 mL) and HOAc (1 drop) was stirred for 16 hr under H2. The mixture was filtrated and the filtrate was concentrated to give the crude product (20 mg 51.4%) as a yellow solid. MS (ESI, m/e) [M+1]+ 390.0.

reactant | 1′-benzyl-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carboxamide | 0.10 mmol, 50 mg | C(C1=CC=CC=C1)N1CCC2(CC1)CNC=1N2N=C(C1C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C29H29N5O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | HOAc | 1 drop | CC(=O)O | C2H4O2
catalyst | Pd(OH)2/C | 5 mg | [OH-].[OH-].[Pd+2]
product | 6-(4-Phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carboxamide | 20 mg, 51.4% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C(=C2N(N1)C1(CCNCC1)CN2)C(=O)N | C22H23N5O2
